US07423159B2
A mixture of diethylamine (0.17 g), [4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)phenyl]acetic acid (0.70 g), 1-hydroxy-1H-1,2,3-benzotriazole hydrate (0.35 g), 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (0.44 g) and N,N-dimethylformamide (20 mL) was stirred at room temperature for 15 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ((2E)-N-{4-[2-(diethylamino)-2-oxoethyl]phenyl}-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylamide as colorless crystals (0.48 g, yield 62%) from a fraction eluted with ethyl acetate-methanol (20:1, v/v). Recrystallization thereof from acetone-hexane gave colorless prism crystals. melting point: 175-176° C.

reactant | diethylamine | 0.17 g | C(C)NCC | C4H11N
reactant | [4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)phenyl]acetic acid | 0.70 g | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C=C1)CC(=O)O | C21H18FN3O3
reactant | 1-hydroxy-1H-1,2,3-benzotriazole hydrate | 0.35 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 0.44 g | Cl.C(C)N=C=NCCCN(C)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (2E)-N-{4-[2-(diethylamino)-2-oxoethyl]phenyl}-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylamide | 0.48 g, yield 62% | C(C)N(C(CC1=CC=C(C=C1)NC(\C=C\C=1C=NN(C1C1=CC=C(C=C1)F)C)=O)=O)CC | C25H27FN4O2
